US06235740B1
A. 4-Bromo-2,5-difluorobenzenamine
To a solution of 2,5-difluoro-4-bromo-nitrobenzene (10 g, 42 mmol) in MeOH (200 mL) and conc. HCl (11 mL) was added tin(II)chloride dihydrate (38 g, 168 mmol) at room temperature. When complete the MeOH was distilled off under vacuum then water and celite were added. The mixture was neutralized with NaOH (50%) and filtered to remove the tin residue. The mixture was extracted with CH2Cl2 and the title compound 468A crystallized from CH2Cl2/hexane.

reactant | 2,5-difluoro-4-bromo-nitrobenzene | 42 mmol, 10 g | FC1=C(C=C(C(=C1)Br)F)[N+](=O)[O-] | C6H2BrF2NO2
reactant | tin(II)chloride dihydrate | 168 mmol, 38 g | O.O.[Sn](Cl)Cl
solvent | MeOH | 200 mL | CO | CH4O
solvent | HCl | 11 mL | Cl | ClH
product | 4-Bromo-2,5-difluorobenzenamine | BrC1=CC(=C(C=C1F)N)F | C6H4BrF2N
